US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-6-(difluoromethoxy)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (110 mg) and 10% palladium on carbon (40 mg) in MeOH (10 mL) was hydrogenated under balloon pressure at room temperature for 2 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 6-(difluoromethoxy)-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (86 mg) as a pale yellow oil.

reactant | 3-[4-(benzyloxy)phenyl]-6-(difluoromethoxy)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 110 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)OC(F)F)CC)=O | C22H19F2N3O3
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(difluoromethoxy)-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 86 mg | FC(OC=1C=C2C(=NC1)N(C(N2CC)=O)C2=CC=C(C=C2)O)F | C15H13F2N3O3
